US07378418B2
244H. Preparation of 1-(5-(4-Chlorophenyl)-4-(pyridin-4-yl)pyridazin-3-yl)hydrazine
3-Chloro-5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazine (5.1 g, 16.9 mmol) was dissolved in pyridine (20 mL) and hydrazine mono-hydrate (17.0 mL, 350.5 mmol) was added. The reaction mixture was stirred at reflux for 40 min. After this time, the reaction mixture was cooled to RT and then concentrated to half of the original volume under reduced pressure. The resultant mixture was diluted with water (100 mL). The yellow colored solid was collected by filtration and rinsed thoroughly with water. The solid was dried in a vacuum oven at 40° C. to give the title compound, 1-(5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3-yl)hydrazine, (4.4 g, 88%) as a yellow powder. HPLC: 1.01 min; MS, M+H=298.

reactant | 3-Chloro-5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazine | 16.9 mmol, 5.1 g | ClC=1N=NC=C(C1C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C15H9Cl2N3
reactant | hydrazine mono-hydrate | 350.5 mmol, 17.0 mL | O.NN
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 1-(5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3-yl)hydrazine | 4.4 g, 88% | ClC1=CC=C(C=C1)C=1C(=C(N=NC1)NN)C1=CC=NC=C1 | C15H12ClN5
